* source 2
D_D1         N00119 N01824 Dbreak 
V_Vs         N00119 N02700  AC 1
+SIN 0 5 60 0 0 0
C_C1         0 N01824  0.000060  TC=0,0 
R_Vout         0 N01824  5000 TC=0,0 
D_D2         0 N00119 Dbreak 
D_D3         0 N02700 Dbreak 
D_D4         N02700 N01824 Dbreak 
